US06596445B1
22.a. 1-(4-Methylsulfanyl-phenyl)-butan-1-one oxime
9.72 g (50 mmol) of 1-(4-Methylsulfanyl-phenyl)-butane-1-one is dissolved in hot ethanol. Then a solution of hydroxylammonium chloride (3.58 g, 51.5 mmol) and sodium acetate (7.0 g, 85 mmol) in 20 ml of water is added, and the reaction solution is stirred at 100° C. for 4 hrs. After cooling and concentrating, water is added. The crude product is extracted with ethyl acetate, washed with brine, dried over MgSO4, and concentrated. The residue is purified by column chromatography on silica gel with ethyl acetate-hexane (20:80) as an eluent. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ[ppm]: 0.98 (t, 3H), 1.54-1.64 (m, 2H), 2.50 (s, 3H), 2.76 (t, 2H), 7.24 (d, 2H), 7.54 (d, 2H), 7.98 (s, 1H).

reactant | 1-(4-Methylsulfanyl-phenyl)-butane-1-one | 50 mmol, 9.72 g | CSC1=CC=C(C=C1)C(CCC)=O | C11H14OS
reactant | hydroxylammonium chloride | 51.5 mmol, 3.58 g | [Cl-].O[NH3+]
reactant | sodium acetate | 85 mmol, 7.0 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 1-(4-Methylsulfanyl-phenyl)-butan-1-one oxime | CSC1=CC=C(C=C1)C(CCC)=NO | C11H15NOS
